US09238640B2
Preparation of 2-(2-(2-Hydroxyethyl)-1H-indol-5-yl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 2-(2-hydroxy-ethyl)-1H-indole-5-carbaldehyde (0.300 g, 1.58 mmol) and 2-amino-4,6-dimethoxy-benzamide (0.370 g, 1.90 mmol) in N,N-dimethylacetamide (5 mL) were added sodium hydrogen sulfite (58.5 wt %) (0.350 g, 1.90 mmol) and p-toluenesulfonic acid monohydrate (60 mg, 0.32 mmol). The reaction mixture was stirred at 120° C. for 16 hours under nitrogen and cooled to room temperature. The solvent was evaporated under reduced pressure. Water (20 mL) was added and the solid was separated by filtration, washed with water (30 mL) and dried under vacuum. Crude compound was purified by the Simpliflash system (5:20:75 methanol/ethyl acetate/CH2Cl2 as eluent) to give the title compound as an off-white solid. Yield: 0.22 g (38%). MP 237-238° C. 1H NMR (400 MHz, DMSO-d6): δ 11.83 (br s, 1H), 11.20 (s, 1H), 8.34 (s, 1H), 7.90 (d, J=8.2 Hz, 1H), 7.37 (d, J=8.6 Hz, 1H), 6.73 (d, J=1.9 Hz, 1H), 6.48 (d, J=1.9 Hz, 1H), 6.30 (s, 1H), 4.81 (t, J=5.1 Hz, 1H), 3.89 (s, 3H), 3.84 (s, 3H), 3.75 (q, J=6.63 Hz, 2H), 2.89 (t, J=7.0 Hz, 2H).

reactant | 2-(2-hydroxy-ethyl)-1H-indole-5-carbaldehyde | 1.58 mmol, 0.300 g | OCCC=1NC2=CC=C(C=C2C1)C=O | C11H11NO2
reactant | 2-amino-4,6-dimethoxy-benzamide | 1.90 mmol, 0.370 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | sodium hydrogen sulfite | 1.90 mmol, 0.350 g | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 0.32 mmol, 60 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 2-(2-(2-Hydroxyethyl)-1H-indol-5-yl)-5,7-dimethoxyquinazolin-4(3H)-one | OCCC=1NC2=CC=C(C=C2C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C20H19N3O4
